US08222248B2
A solution of ((E)-2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-vinyl)-phosphonic acid diethyl ester (300 mg, 0.54 mmol) in EtOH (20 mL) was hydrogenated at one atm over Pd/C (225 mg) for 3 hours. The catalyst was filtered through Celite and was washed with EtOH. The solvent was removed under reduced pressure to give (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid diethyl ester as a red solid.

reactant | ((E)-2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-vinyl)-phosphonic acid diethyl ester | 0.54 mmol, 300 mg | C(C)OP(OCC)(=O)\C=C\C1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C31H31N4O4P
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 225 mg | [Pd] | Pd
product | (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C31H33N4O4P
